US07122543B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]piperidine
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid (430 mg, 1.0165 mmol) and piperidine (173 mg, 2.0352 mmol) were dissolved in methylene chloride (30 ml), then 4-dimethylaminopyridine (62 mg, 0.5081 mmol) and WSC-HCl (487 mg, 2.5404 mmol) were added thereto and the mixture was stirred at room temperature for 6 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (5% methanol-methylene chloride) to give the title compound (334 mg, 0.6816 mmol, 67%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid | 1.0165 mmol, 430 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | piperidine | 2.0352 mmol, 173 mg | N1CCCCC1 | C5H11N
reactant | WSC HCl | 2.5404 mmol, 487 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.5081 mmol, 62 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]piperidine | 0.6816 mmol, 334 mg, 67% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C29H34N2O5
